US04209629
Preparation of 3'-(3-Trifluoromethylphenyl)-Spiro[Isobenzofuran-1(3H),5'(4'H)-Isoxazol]-3-One.
To a solution of 109.5 g (0.75 mole) of 3-methylenephthalide and 285 g (1.27 mole) of m-trifluoromethylbenzaldehyde chlorooxime in 3.5 liters of ether was added 128.3 g (1.27 mole) of triethylamine in 250 ml. of ether at 0° C. during 3 hours. The solution was then stirred at room temperature overnight. An infrared spectrum indicated that the reaction was complete. The solid was filtered off. The ethereal solution was washed once with 10% HCl, twice with sodium chloride saturated water, dried over CaSO4 and concentrated under vacuum. Only 19.5 g of impure product was obtained. The solid material which was filtrated from the original reaction solution was stirred with 4 liters of tetrahydrofuran for 4 hours and filtered through a Buchner funnel. The tetrahydrofuran solution obtained was washed once with 10% HCl solution and twice with water saturated with sodium chloride. After being dried and concentrated, the tetrahydrofuran solution gave 140.6 g of pure product, m.p. 170° C.

reactant | 3-methylenephthalide | 0.75 mole, 109.5 g | C=C1OC(=O)C2=CC=CC=C12 | C9H6O2
reactant | m-trifluoromethylbenzaldehyde chlorooxime | 1.27 mole, 285 g | ClON=CC1=CC(=CC=C1)C(F)(F)F | C8H5ClF3NO
reactant | triethylamine | 1.27 mole, 128.3 g | C(C)N(CC)CC | C6H15N
solvent | ether | 3.5 liters | CCOCC | C4H10O
product | 3'-(3-Trifluoromethylphenyl)-Spiro[Isobenzofuran-1(3H),5'(4'H)-Isoxazol]-3-One | 19.5 g | FC(C=1C=C(C=CC1)C1=NOC2(C1)OC(C1=CC=CC=C12)=O)(F)F | C17H10F3NO3
